2140-04-21 05:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SHEATH - START [**2140-4-20**] 01:00 PM
   venous
 ARTERIAL LINE - START [**2140-4-20**] 01:00 PM
   arterial sheath
 NASAL SWAB - At [**2140-4-20**] 02:25 PM
 EKG - At [**2140-4-20**] 02:44 PM
 URINE CULTURE - At [**2140-4-20**] 03:15 PM
 ULTRASOUND - At [**2140-4-20**] 03:22 PM
   carotid
 EKG - At [**2140-4-20**] 06:50 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-4-21**] 05:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.2
C (98.9
   HR: 92 (78 - 100) bpm
   BP: 117/55(78) {112/52(73) - 132/69(92)} mmHg
   RR: 16 (14 - 23) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 64 Inch
    CVP: 7 (7 - 13)mmHg
   Total In:
                                                                     89 mL
                                                                     48 mL
   PO:
   TF:
   IVF:
                                                                     89 mL
                                                                     48 mL
   Blood products:
   Total out:
                                                                    810 mL
                                                                    270 mL
   Urine:
                                                                    810 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -721 mL
                                                                   -222 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   Gen: WDWN elderly female in NAD. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with flat JVP
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext: No c/c/e. No femoral bruits.  Right venous sheath in place with DP
   pulses
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   .
   Pulses:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   232 K/uL
   9.6 g/dL
   92 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.9 mEq/L
   12 mg/dL
   108 mEq/L
   140 mEq/L
   28.4 %
   5.6 K/uL
        [image002.jpg]
                             [**2140-4-20**]  02:34 PM
                             [**2140-4-21**]  03:00 AM
   WBC
   4.6
   5.6
   Hct
   28.3
   28.4
   Plt
   232
   232
   Cr
   0.7
   0.7
   Glucose
   96
   92
   Other labs: PT / PTT / INR:14.8/50.6/1.3, ALT / AST:[**1-2**], Alk Phos / T
   Bili:57/0.4, Differential-Neuts:71.8 %, Lymph:21.0 %, Mono:5.4 %,
   Eos:1.7 %, Albumin:3.2 g/dL, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.3
   mg/dL
   83yo female with a history of hyperlipidemia and anxiety was admitted
   from an OSH with left main disease and for consideration of surgery.
   .
   1. Coronary artery disease
   Patient is chest pain free and has no evidence of her anginal
   equivalent of shoulder, jaw, or arm pain. Cardiac catheterization today
   demonstrates 95% occlusion of her left main, necessitating evaluation
   by cardiac surgery.
   - continue aspirin, statin, and beta blocker
   - consider starting an ACEI after surgery
   - continue heparin drip
   - appreciate CT surgery recommendations
   - will obtain HbA1c and carotid US in preparation for surgery
   - check fasting lipid panel tomorrow morning
   .
   2. Pump
   Patient's EF was 35% on cardiac catheterization. Appears euvolemic.
   - continue to monitor I/Os daily
   .
   3. Rhythm
   Patient remains in sinus rhythm.
   - obtain ECG
   .
   4. Aortic Stenosis
   Patient has mild aortic stenosis according to recent cardiac
   catheterization.
   - obtain TEE for further evaluation of aortic valve and consideration
   of aortic valve replacement at the time of surgery
   .
   4. Anemia
   Patient was admitted taking both iron and Vitamin B12, suggesting a
   history of iron deficiency and vitamin B12 deficiency.
   - continue iron and vitamin B12
   .
   #. FEN: Follow and replete electrolytes. Cardiac diet. No IVF at
   present.
   #. Access: PIV, right groin sheath
   - will follow-up with Dr. [**Last Name (STitle) 161**] about when able to pull groin sheath
   #. PPx:
   - PO diet
   - bowel regimen
   - pneumoboots
   - hold heparin SC in preparation for surgery.
   #. Code: FULL CODE
   #. Dispo: pending further consultation with cardiac surgery
   #. Comm: [**Name (NI) 486**] [**Name (NI) 6241**] [**Telephone/Fax (1) 6242**]; [**First Name5 (NamePattern1) 6243**] [**Last Name (NamePattern1) 6241**] [**Telephone/Fax (1) 6244**]
   (niece)